US07625869B2
Fmoc-Phe,Fmoc-Orn(Mtt) was introduced into 4 g (0.55 mmol/g) of Rink Amide MBHA resin commercially available to prepare Fmoc-Orn(Mtt)-Phe-Rink Amide MBHA resin, and 50 mL of TFA/TIS/DCM (Jan. 5, 1994) was added to the resin, followed by shaking for 50 minutes. After the resin washed, 40 mL of DCM and 2.27 g of N-methyl-N,N′-bis-Boc-1-guanylpyrazole prepared in REFERENCE EXAMPLE 1 were added to the resin. DIEA was added to the mixture to adjust pH of the solution to 9. The mixture was shaken for 15 hours to give 4.74 g of Fmoc-Arg(Boc2,Me)Phe-Rink Amide MBHA resin. Separately, 145 mg of Fmoc-NHNH2HCl was suspended in 10 mL of THF. Under ice cooling, 89 mg of CDI and 87 mL of DIEA were added to the suspension, followed by stirring at room temperature for an hour. Under ice cooling, a solution of 224 mg of H-Leu-OBut HCl in 5 mL of DMF 5 mL was added to the mixture. While reverting to room temperature, the mixture was stirred for 18 hours. After the solvent was distilled off, the residue was dissolved in AcOEt and the solution washed with 1N HCl aq. solution, satd. NaHCO3 aq. solution and then satd. NaCl aq. solution. After drying over Na2SO4, the solvent was concentrated and the concentrate was purified by flash column chromatography to give 230 mg (yield 99%) of Fmoc-AzaGly-Leu-OBut. To 187 mg of the product, 10 mL of TFA/H2O (9/1) was added, followed by stirring for an hour. After the solvent was distilled off, the residue was dissolved in AcOEt and the solution washed with satd. NaCl aq. solution. After drying over Na2SO4, the solvent was concentrated and diethyl ether was added to give 143 mg of Fmoc-AzaGly-Leu-OH as the precipitate (yield 87%). The resulting Fmoc-AzaGly-Leu-OH, Trt-Phe was introduced into Fmoc-Arg(Boc2,Me)Phe-Rink Amide MBHA resin. To the thus prepared Trt-Phe-AzaGly-Leu-Arg(Boc2,Me)Phe-Rink Amide MBHA resin, 50 mL of TFA/TIS/DCM (Jan. 5, 1994) was added and the mixture was shaken for 50minutes. After the resin washed and neutralized, Fmoc-Ser(But) and then Fmoc-Asn(Trt) were introduced thereinto. Using 80.3 mg of the resulting Fmoc-Asn(Trt)Ser(But)Phe-AzaGly-LeuArg(Boc2,Me)Phe-Rink Amide MBHA resin, the peptide chain was extended to give 97.2 mg of H-D-Tyr(But)Asn(Trt)Trp(Boc)Asn(Trt)Ser(But)Phe-AzaGly-LeuArg(Boc2,Me)Phe-Rink Amide MBHA resin.

reactant | Fmoc-NHNH2HCl | 145 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NN.Cl
reactant | CDI | 89 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIEA | 87 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | H-Leu-OBut HCl | 224 mg | N[C@@H](CC(C)C)C(=O)OC(C)(C)C.Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Fmoc-AzaGly-Leu-OBut | 230 mg, yield 99% | N(NC(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H33N3O5
